* Extracted by KLayout with SG13CMOS5L LVS runset on : 31/07/2026 23:50

.SUBCKT inverter_top vin1 vin2 vin3 vin4 vout1 vout2 vout3 vout4
X$1 \$17 \$18 vout1 vin1 inverter
X$2 \$17 \$18 vout2 vin2 inverter
X$3 \$17 \$19 vout3 vin3 inverter
X$4 \$17 \$19 vout4 vin4 inverter
.ENDS inverter_top

.SUBCKT inverter VSS VDD vout vin
M$1 VSS VSS VSS VSS sg13_lv_nmos L=1u W=2u AS=0.53p AD=0.53p PS=4.06u PD=4.06u
+ rfmode=0
M$2 VSS vin vout VSS sg13_lv_nmos L=1u W=20u AS=3.8p AD=3.8p PS=27.6u PD=27.6u
+ rfmode=0
M$23 VDD VDD VDD VDD sg13_lv_pmos L=1u W=12u AS=3.18p AD=3.18p PS=19.06u
+ PD=19.06u rfmode=0
M$24 VDD vin vout VDD sg13_lv_pmos L=1u W=120u AS=22.8p AD=22.8p PS=127.6u
+ PD=127.6u rfmode=0
.ENDS inverter
